US06191150B1
A mixture of 143.1 g (836 mmol) of N-trifluoroacetylglycine in 1 L of DMF is chilled to −8° C. as 100 mL (844 mmol) of E-crotyl bromide is added dropwise, followed by addition of 140 mL (937 mmol) of DBU at −5° C. After 1.5 h at −5° C. and 2 h at −2° C. the mixture is allowed to warm to 25° C. The mixture is cooled to 0° C. and 40 mL more DBU is added. After warming to 25° C. the mixture is concentrated in vacuo. 1 L of 1:1 ether-water is added. The organic layer is separated, washed with water, 1 N HCl, saturated aqueous sodium bicarbonate, and saturated aqueous sodium chloride. Drying and concentration in vacuo is followed by trituration of the oil with hexanes-EtOAC to provide a solid. Chromatography on silica gel (elution with 3:1 hexanes-EtOAc) affords 49.96 g of (2E)-2-buten-1-yl N-trifluoroacetylglycinate as an oil.

reactant | N-trifluoroacetylglycine | 836 mmol, 143.1 g | FC(C(=O)NCC(=O)O)(F)F | C4H4F3NO3
reactant | E-crotyl bromide | 844 mmol, 100 mL | C(\C=C\C)Br | C4H7Br
reactant | DBU | 937 mmol, 140 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1 L | CN(C)C=O | C3H7NO
product | (2E)-2-buten-1-yl N-trifluoroacetylglycinate | 49.96 g | FC(C(=O)NCC(=O)OC\C=C\C)(F)F | C8H10F3NO3
